US05998433
f) Synthesis of 4,5,6,7-tetrahydrothieno[2,3-c]pyridine hydrochloride
To a solution of 1.427 g (5.962 mmol) of 6-tert-butoxycarbonyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine in 5 ml of methanol, 3 ml of concentrated hydrochloric acid was added, followed by stirring at room temperature for 1 hour. The solvent was distilled off under reduced pressure to yield the desired product.

reactant | 6-tert-butoxycarbonyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 5.962 mmol, 1.427 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)C=CS2 | C12H17NO2S
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 4,5,6,7-tetrahydrothieno[2,3-c]pyridine hydrochloride | Cl.S1C=CC2=C1CNCC2 | InChI=1S/C7H9NS.ClH/c1-3-8-5-7-6(1)2-4-9-7;/h2,4,8H,1,3,5H2;1H
